US05110938
Butadiene monoepoxide (9.8 g, 0.14 mole, Aldrich Chemical Co.) was mixed with hexafluoroacetone (50 g, 0.30 mole) in a 210 ml Hastelloy®C shaker tube in the presence of tetrabutylammonium bromide (0.12 g) and water (0.12 g). The tube was sealed and heated at 80° C. for 1 hour, 100° C. for 1 hour and 120° C. for 6 hours. The product mixture was distilled to afford the desired 2,2-bis(trifluoromethyl)-4-vinyl-1,3-dioxolane, 4.0 g (12.1% yield), as a clear, colorless liquid. Bp. 78°-80° C. 1H-NMR (CDCl3): δ 5.84 (m, 1H), 5.48 (m, 2H), 4.88 (dd, J=6.6, 5.4 Hz, 1H), 4.46 (t, J=6.6 Hz, 1H), 3.87 (t, J=6.6 Hz, 1H).

reactant | Butadiene monoepoxide | 0.14 mole, 9.8 g | C=CC1CO1 | C4H6O
reactant | hexafluoroacetone | 0.30 mole, 50 g | FC(C(=O)C(F)(F)F)(F)F | C3F6O
catalyst | tetrabutylammonium bromide | 0.12 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 0.12 g | O | H2O
product | 2,2-bis(trifluoromethyl)-4-vinyl-1,3-dioxolane | 12.1% yield | FC(C1(OCC(O1)C=C)C(F)(F)F)(F)F | C7H6F6O2
